US07226942B2
Part III: 3-Carboxy-1-oxo-1,2,3,4-tetrahydronaphthalene
A solution of 2-benzylsuccinic acid (78.37 g, 0.376 mol) in sulfuric acid (98%, 300 mL) was stirred at 60° C. for 20 min, then poured onto ice (2 kg), followed by extraction with diethyl ether (2 L, twice). The organic phase was washed with water, dried over anhydrous sodium sulfate, and evaporated under vacuum to obtain a solid. The solid was recrystallized from ethyl acetate to obtain the title compound (65.14 g, yield 91%). 1HNMR (DMSO-d6) δ 12.4–12.2 (bs, 1H), 7.80 (d, J=7.8 Hz, 1H), 7.50 (m, 1H), 7.34–7.28 (m, 2H), 3.21–3.07 (m, 3H), 2.73 (m, 2H). See also U.S. Pat. No. 5,739,135; J. Med. Chem. 1982, 25, 535–538; Org. Prep. Proc. Int. 1987, 19, 447–449.

reactant | 2-benzylsuccinic acid | 0.376 mol, 78.37 g | C(C1=CC=CC=C1)C(C(=O)O)CC(=O)O | C11H12O4
solvent | sulfuric acid | 300 mL | S(O)(O)(=O)=O | H2O4S
product | 3-Carboxy-1-oxo-1,2,3,4-tetrahydronaphthalene | 65.14 g, yield 91% | C(=O)(O)C1CC(C2=CC=CC=C2C1)=O | C11H10O3
